US05095009
Using a similar method to above 3-methyl-D,L-aspartic acid (10.0 g, 67 mmol), benzyl chloroformate (12 ml, 100 mmol) in 50% NaOH (16.7 g, 208 mmol) in water (125 ml) yielded N-benzyloxycarbonyl-3-methyl-D,L-aspartic acid 19.0g as a low melting solid. 1H NMR (90 MHz, CDCl3 /d6DMSO): δ1.1 (3,d), 2.9 (1,dt), 4.4 (1,m), 4.95 (2,s) 5.9 (1,bd) 7.2 (5,6) 7.9 (1,bs).

reactant | 3-methyl-D,L-aspartic acid | 67 mmol, 10.0 g | CC(C(N)C(=O)O)C(=O)O | C5H9NO4
reactant | benzyl chloroformate | 100 mmol, 12 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | NaOH | 208 mmol, 16.7 g | [OH-].[Na+]
solvent | water | 125 ml | O | H2O
product | N-benzyloxycarbonyl-3-methyl-D,L-aspartic acid | 19.0g | C(C1=CC=CC=C1)OC(=O)NC(C(C(=O)O)C)C(=O)O | C13H15NO6
